US07199243B2
Cesium carbonate (24.00 g, 73.67 mmol) and benzyl bromide (8.03 mL, 67.53 mmol) were added sequentially to a solution of of 3-[3-(1-Carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (22.31 g, 61.39 mmol) and dimethylformamide (100 mL) at ambient temperature. The resulting mixture was warmed to 60° C., stirred 1.5 h, cooled to ambient temperature and diluted with water (600 mL). The aqueous solution was extracted with diethyl ether (2×300 mL). The organic extracts were combined and washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The resultant oil was purified by flash column chromatography (7:1 hexanes/ethyl acetate) to provide 3-[3-(1-Benzyloxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as a pale-yellow oil.

reactant | Cesium carbonate | 73.67 mmol, 24.00 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 67.53 mmol, 8.03 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-[3-(1-Carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 61.39 mmol, 22.31 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC(=CC=C1)OC(C)(C)C(=O)O | C20H29NO5
reactant | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 600 mL | O | H2O
product | 3-[3-(1-Benzyloxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC(=CC=C1)OC(C)(C)C(=O)OCC1=CC=CC=C1 | C27H35NO5
